US08541596B2
N-(1-Phenylethyl)-3H-benzo[d]imidazol-5-amine
The compound was synthesized starting from 5-bromobenzimidazole (200 mg; 1 mmol; 1 eq.), 1-phenylethylamine (145 mg; 0.154 ml; 1.2 mmol; 1.2 eq.), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (9 mg; 0.024 mmol; 0.024 eq.; 2.4 mol %), Pd2 dba3 (9 mg; 0.01 mmol; 0.01 eq.; 1 mol %) and lithiumbis(trimethylsilyl)amide 1 M in THF (2.2 ml; 2.2 mmol; 2.2 eq.) according to method 1; Yield: 0.069 mg (29.1%); MS m/z: 238.1 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 1.42 (d, 3H, 3J=7.0 Hz); 4.44 (quin, 1H, 3J=6.7 Hz); 5.97 (br s, 1H); 6.34 (br s, 1H); 6.59-6.60 (m, 1H); 7.13-7.16 (m, 1H); 7.24-7.28 (m, 3H); 7.38-7.39 (m, 2H); 7.77 (s, 1H); 11.74 (br s, 1H); HPLC (METHOD [A]): rt 11.42 min (90.3%)

reactant | 5-bromobenzimidazole | 1 mmol, 200 mg, 1 eq. | BrC1=CC2=C(N=CN2)C=C1 | C7H5BrN2
reactant | 1-phenylethylamine | 1.2 mmol, 0.154 ml, 145 mg, 1.2 eq. | C1(=CC=CC=C1)C(C)N | C8H11N
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.024 mmol, 9 mg, 0.024 eq. | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | lithiumbis(trimethylsilyl)amide | 1 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 2.2 mmol, 2.2 ml, 2.2 eq. | C1CCOC1 | C4H8O
catalyst | Pd2 dba3 | 0.01 mmol, 9 mg, 0.01 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(1-Phenylethyl)-3H-benzo[d]imidazol-5-amine | C1(=CC=CC=C1)C(C)NC1=CC2=C(N=CN2)C=C1 | C15H15N3
